US06037350
A mixture of (±)-4-[(4-chlorophenyl)(1,2-dihydro-1-methyl-2-oxo-4-phenyl-6-quinolinyl)hydroxymethyl]-N,N-dimethyl-1H-imidazole-1-sulfonamide (2.4 g) in hydrochloric acid (10 ml), water (30 ml) and methanol (15 ml) was stirred and heated at 110° C. for 14 hours. The mixture was cooled, basified with NH3 (aq.) and extracted with DCM. The organic layer was dried (MgSO4), filtered off and evaporated till dryness. The residue was purified by column chromatography over silica gel (eluent: CH2Cl2 /CH3OH/NH4OH 95/5/0.2). The pure fractions were collected and evaporated. The residue (1.25 g) was crystallized from 2-propanone/DIPE, yielding 1 g (48.3%) of (±)-6-[(4-chlorophenyl)hydroxy(1H-imidazol-4-yl)methyl]-1-methyl-4-phenyl-2(1H)-quinolinone monohydrate (comp. 43).

reactant | (±)-4-[(4-chlorophenyl)(1,2-dihydro-1-methyl-2-oxo-4-phenyl-6-quinolinyl)hydroxymethyl]-N,N-dimethyl-1H-imidazole-1-sulfonamide | 2.4 g | ClC1=CC=C(C=C1)C(C=1N=CN(C1)S(=O)(=O)N(C)C)(O)C=1C=C2C(=CC(N(C2=CC1)C)=O)C1=CC=CC=C1 | C28H25ClN4O4S
reactant | NH3 | N | H3N
solvent | hydrochloric acid | 10 ml | Cl | ClH
solvent | water | 30 ml | O | H2O
solvent | methanol | 15 ml | CO | CH4O
product | (±)-6-[(4-chlorophenyl)hydroxy(1H-imidazol-4-yl)methyl]-1-methyl-4-phenyl-2(1H)-quinolinone monohydrate | 1 g, 48.3% | O.ClC1=CC=C(C=C1)C(C=1C=C2C(=CC(N(C2=CC1)C)=O)C1=CC=CC=C1)(C=1N=CNC1)O | InChI=1S/C26H20ClN3O2.H2O/c1-30-23-12-9-19(13-22(23)21(14-25(30)31)17-5-3-2-4-6-17)26(32,24-15-28-16-29-24)18-7-10-20(27)11-8-18;/h2-16,32H,1H3,(H,28,29);1H2
